US04167574
A mixture of 3.6 parts of 1-(2-chloroethyl)-4-ethyl-1,4-dihydro-5H-tetrazol-5-one, 6.4 parts of methyl 4-[N-(1-oxopropyl)N-phenylamino]-4-piperidinecarboxylate hydrochloride, 4 parts of sodium carbonate, 0.1 parts of potassium iodide and 240 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is cooled and poured onto water. The organic phase is separated, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the ethanedioate salt in 2-propanone. The salt is filtered off and dried, yielding 1.5 parts (13%) of methyl 1-[2-(4-ethyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)ethyl]-4-[(1-oxopropyl)phenylamino]-4-piperidinecarboxylate ethanedioate (2:3); mp. 158.9° C.

reactant | 1-(2-chloroethyl)-4-ethyl-1,4-dihydro-5H-tetrazol-5-one | ClCCN1N=NN(C1=O)CC | C5H9ClN4O
reactant | methyl 4-[N-(1-oxopropyl)N-phenylamino]-4-piperidinecarboxylate hydrochloride | Cl.O=C(CC)N(C1=CC=CC=C1)C1(CCNCC1)C(=O)OC
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | methyl 1-[2-(4-ethyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)ethyl]-4-[(1-oxopropyl)phenylamino]-4-piperidinecarboxylate ethanedioate | 13% | C(C(=O)O)(=O)O.C(C)N1N=NN(C1=O)CCN1CCC(CC1)(C(=O)OC)N(C1=CC=CC=C1)C(CC)=O | InChI=1S/C21H30N6O4.C2H2O4/c1-4-18(28)27(17-9-7-6-8-10-17)21(19(29)31-3)11-13-24(14-12-21)15-16-26-20(30)25(5-2)22-23-26;3-1(4)2(5)6/h6-10H,4-5,11-16H2,1-3H3;(H,3,4)(H,5,6)
